* File: LSGCPX1.pex.netlist.pex
* Created: Tue Jul  4 08:09:25 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_LSGCPX1_D_VDD 1 4 9 10 17 18 25 26 31 32 37 42 55 56 57 58 59
c70 59 0 0.0586385f
c71 58 0 0.0765692f
c72 57 0 0.0664279f
c73 56 0 0.0690666f
c74 55 0 0.0986509f
c75 49 0 0.0467475f
c76 48 0 0.0467475f
c77 47 0 0.0467475f
c78 46 0 0.0467475f
c79 45 0 0.0467475f
c80 42 0 0.425226f
c81 37 0 0.0897761f
c82 32 0 0.29156f
c83 31 0 0.106156f
c84 26 0 0.316856f
c85 25 0 0.0897761f
c86 18 0 0.492382f
c87 17 0 0.0898108f
c88 10 0 0.556173f
c89 9 0 0.100163f
c90 8 0 0.0318988f
c91 4 0 0.559814f
r92 56 66 0.0566888
r93 44 55 0.122778
r94 38 49 0.0231002
r95 37 49 0.0225187
r96 36 59 0.0566888
r97 36 37 0.184167
r98 33 48 0.0231002
r99 32 49 0.0231002
r100 31 48 0.0225187
r101 30 58 0.0566888
r102 30 31 0.184167
r103 27 47 0.0231002
r104 26 48 0.0231002
r105 25 47 0.0225187
r106 24 57 0.0566888
r107 24 25 0.184167
r108 19 46 0.0231002
r109 18 47 0.0231002
r110 17 46 0.0225187
r111 17 66 0.184167
r112 11 45 0.0231002
r113 10 46 0.0231002
r114 9 45 0.0225187
r115 8 44 0.0472333
r116 8 9 0.2125
r117 4 45 0.0231002
r118 1 42 0.12325
r119 1 38 0.09775
r120 1 32 0.12325
r121 1 33 0.14875
r122 1 26 0.20825
r123 1 27 0.07225
r124 1 18 0.01275
r125 1 19 0.1615
r126 1 10 0.0595
r127 1 11 0.14875
r128 1 4 0.208165
.ends

.subckt PM_LSGCPX1_N$210 3 4 6 9 15 17 19 22 24 26 29 34 42 44 46 47 52 54 58
c87 58 0 0.0150039f
c88 54 0 0.141505f
c89 52 0 0.231492f
c90 47 0 0.138152f
c91 46 0 0.0732454f
c92 42 0 0.0636506f
c93 34 0 0.0761977f
c94 29 0 0.0774312f
c95 26 0 0.0640118f
c96 24 0 0.0383745f
c97 22 0 0.0626264f
c98 19 0 0.195835f
c99 17 0 0.151101f
c100 15 0 0.482992f
c101 9 0 0.266736f
c102 6 0 0.179796f
c103 4 0 0.0915409f
r104 52 58 0.0610243
r105 47 55 15.2843
r106 47 54 15.2843
r107 46 49 0.0708333
r108 46 47 7
r109 40 42 0.0779167
r110 30 44 0.00935391
r111 29 49 0.0216719
r112 29 30 0.31875
r113 27 44 0.0359928
r114 27 58 0.120417
r115 26 44 0.0359928
r116 25 42 0.00499195
r117 25 26 0.269167
r118 24 40 0.00499195
r119 23 34 0.0216719
r120 23 24 0.134583
r121 22 34 0.0216719
r122 22 39 0.255
r123 19 20 39.8089
r124 17 18 25
r125 15 55 139.583
r126 11 20 2.03499
r127 11 54 50
r128 7 18 1.46822
r129 7 9 54.1667
r130 6 19 2.03499
r131 5 17 1.46822
r132 5 6 64.5833
r133 4 39 0.0519666
r134 3 34 0.0424056
.ends

.subckt PM_LSGCPX1_D_GND 1 7 8 9 10 11 13 15 19 21 25 31 35 38 54 57 65
c76 65 0 0.409586f
c77 57 0 0.519743f
c78 54 0 0.537158f
c79 39 0 0.0467475f
c80 38 0 0.676401f
c81 35 0 0.0818183f
c82 32 0 0.0467475f
c83 31 0 0.520373f
c84 25 0 0.0738946f
c85 21 0 0.0914568f
c86 19 0 0.0922089f
c87 15 0 0.0899274f
c88 13 0 0.0904997f
c89 11 0 0.0580712f
c90 10 0 0.0625092f
c91 9 0 0.0668314f
c92 8 0 0.0578535f
c93 1 0 0.0934951f
r94 38 39 0.0231002
r95 37 39 0.0231002
r96 31 32 0.0231002
r97 30 32 0.0231002
r98 20 21 0.17
r99 18 19 0.17
r100 16 39 0.0225187
r101 16 35 0.155833
r102 14 32 0.0225187
r103 14 15 0.155833
r104 13 25 0.0216719
r105 13 29 0.247917
r106 11 21 0.0519666
r107 10 19 0.0519666
r108 9 35 0.0519666
r109 8 29 0.0519666
r110 8 15 0.0519666
r111 7 25 0.0425
r112 1 20 0.0225187
r113 1 57 0.0231002
r114 1 61 0.0231002
r115 1 18 0.0225187
r116 1 54 0.0231002
r117 1 58 0.0231002
r118 1 65 0.12325
r119 1 61 0.11475
r120 1 57 0.24225
r121 1 58 0.23375
r122 1 54 0.25925
r123 1 37 0.2125
r124 1 38 0.1445
r125 1 30 0.18275
r126 1 31 0.174165
.ends

.subckt PM_LSGCPX1_nose 2 3 5 7 9 12 15 18 20 21 23 26 28 32 35 37 39 44 52 53
+ 54 56 57 58 60 61 63 69 76
c171 76 0 0.218952f
c172 63 0 0.0340465f
c173 61 0 0.0470202f
c174 60 0 0.215923f
c175 58 0 0.052814f
c176 57 0 0.159558f
c177 56 0 0.0210086f
c178 54 0 0.0248154f
c179 53 0 0.0967879f
c180 52 0 0.137115f
c181 44 0 0.116305f
c182 39 0 0.097185f
c183 37 0 0.0260192f
c184 35 0 0.180855f
c185 32 0 0.142714f
c186 28 0 0.231429f
c187 26 0 0.338157f
c188 23 0 0.108101f
c189 21 0 0.07784f
c190 20 0 0.28313f
c191 18 0 0.411981f
c192 15 0 0.263164f
c193 12 0 0.402362f
c194 9 0 0.0864629f
c195 7 0 0.406219f
c196 3 0 0.244207f
c197 2 0 0.0869543f
r198 64 76 15.2778
r199 63 66 0.0330556
r200 63 64 7
r201 60 61 0.0565722
r202 57 73 4.31034
r203 57 71 7.18391
r204 56 58 0.0519666
r205 56 57 7
r206 54 60 0.95625
r207 51 54 0.0519666
r208 51 53 0.0519666
r209 51 52 7
r210 44 66 0.0216719
r211 44 61 0.311667
r212 41 49 0.00836008
r213 41 58 0.2975
r214 39 49 0.0791065
r215 38 48 0.0138203
r216 38 39 0.255
r217 37 53 0.524167
r218 35 69 0.0563764
r219 34 37 0.0474919
r220 34 35 0.304583
r221 30 32 20.8333
r222 28 29 18.1818
r223 24 32 1.46822
r224 24 26 91.6667
r225 22 30 1.46822
r226 22 23 33.3333
r227 20 23 13.9682
r228 20 21 75
r229 16 76 6.3741
r230 16 18 106.25
r231 15 76 6.3741
r232 14 21 13.9682
r233 14 15 81.25
r234 10 73 5.9693
r235 10 12 100
r236 9 29 5.33506
r237 8 52 15.2843
r238 8 9 27.0833
r239 7 52 15.2843
r240 6 71 5.9693
r241 6 7 135.417
r242 3 28 5.33506
r243 3 5 45.8333
r244 2 48 0.131739
.ends

.subckt PM_LSGCPX1_N$219 2 7 9 12 16 18 20 24 26 29 31 36 38 39 43
c81 43 0 0.097686f
c82 39 0 0.216556f
c83 38 0 0.0744848f
c84 31 0 0.0194425f
c85 29 0 0.164188f
c86 26 0 0.0244534f
c87 24 0 0.138103f
c88 20 0 0.04916f
c89 18 0 0.0245216f
c90 16 0 0.142108f
c91 12 0 0.232023f
c92 9 0 0.6003f
c93 2 0 0.142138f
r94 36 43 0.157407
r95 29 42 15.219
r96 29 41 15.219
r97 28 31 0.0519666
r98 28 29 7
r99 24 39 15.2843
r100 24 38 15.2843
r101 23 26 0.0519666
r102 23 24 7
r103 20 34 0.0142585
r104 20 31 0.255
r105 18 43 0.0145839
r106 18 26 0.2125
r107 14 16 29.1667
r108 12 41 50
r109 9 16 1.46822
r110 9 42 200
r111 7 39 45.8333
r112 3 14 1.46822
r113 3 38 25
r114 2 34 0.153
.ends

.subckt PM_LSGCPX1_cn 2 5 7 8 11 15 16 18 19 20 23 25 27 28 29 30 39 41 45 46 47
c115 47 0 0.254941f
c116 46 0 0.152912f
c117 45 0 0.161632f
c118 39 0 0.165665f
c119 30 0 0.0610127f
c120 29 0 0.017742f
c121 28 0 0.0377844f
c122 27 0 0.124348f
c123 25 0 0.214502f
c124 23 0 0.160458f
c125 20 0 0.0961475f
c126 19 0 0.100417f
c127 18 0 0.419587f
c128 16 0 0.0696945f
c129 15 0 0.165389f
c130 11 0 0.185992f
c131 8 0 0.120958f
c132 7 0 0.27609f
c133 5 0 0.713633f
r134 45 47 15.2843
r135 45 46 7
r136 41 46 0.123069
r137 39 51 15.2843
r138 38 39 7
r139 32 33 7
r140 30 32 0.0395547
r141 29 30 0.151156
r142 28 34 0.0089958
r143 27 38 0.0524485
r144 27 28 0.198333
r145 26 29 0.034
r146 25 34 0.219811
r147 25 26 0.595
r148 21 23 25
r149 20 33 29.2398
r150 19 20 27.7909
r151 18 51 145.833
r152 15 18 13.9682
r153 15 16 33.3333
r154 13 16 13.9682
r155 13 47 87.5
r156 9 19 17.9291
r157 9 11 37.5
r158 8 23 1.46822
r159 7 33 15.411
r160 7 8 35.4167
r161 3 21 1.46822
r162 3 5 222.917
r163 2 38 0.124853
.ends

.subckt PM_LSGCPX1_ci 2 5 9 15 18 21 22 23 26 28 29 30 33 34 39 41 43 48 51 53
+ 54 58 66 73 74 80
c159 80 0 0.0274786f
c160 74 0 0.245781f
c161 73 0 0.110015f
c162 66 0 0.0733916f
c163 58 0 0.144573f
c164 54 0 0.0289337f
c165 53 0 0.0136298f
c166 51 0 0.162682f
c167 48 0 0.159824f
c168 43 0 0.0634719f
c169 41 0 0.0183208f
c170 39 0 0.014263f
c171 34 0 0.0917447f
c172 33 0 0.100752f
c173 30 0 0.0799739f
c174 29 0 0.0825118f
c175 28 0 0.222519f
c176 26 0 0.209679f
c177 23 0 0.343916f
c178 22 0 0.0663417f
c179 21 0 0.526103f
c180 18 0 0.248224f
c181 9 0 0.573442f
c182 5 0 0.229432f
c183 2 0 0.0779654f
r184 66 80 0.0566888
r185 58 77 15.2843
r186 58 76 15.2843
r187 57 59 0.0519666
r188 57 58 7
r189 54 57 0.0141667
r190 51 74 15.219
r191 51 73 15.219
r192 50 53 0.0519666
r193 50 51 7
r194 48 71 15.2843
r195 47 48 7
r196 43 44 7
r197 41 43 0.179297
r198 40 47 0.129375
r199 40 41 0.17
r200 38 60 0.0216719
r201 38 39 0.085
r202 36 80 0.085
r203 35 54 0.0216719
r204 34 39 0.0474919
r205 34 35 0.2125
r206 33 59 0.410833
r207 30 36 0.0474919
r208 30 53 0.311667
r209 29 47 0.0539119
r210 28 33 0.0474919
r211 28 29 1.0625
r212 24 26 50
r213 23 44 35.1852
r214 22 23 33.3333
r215 21 26 1.46822
r216 21 77 185.417
r217 18 76 50
r218 15 74 45.8333
r219 11 24 1.46822
r220 11 73 35.4167
r221 9 71 170.833
r222 3 22 14.7074
r223 3 5 41.6667
r224 2 60 0.0708333
.ends

.subckt PM_LSGCPX1_GCLK 2 5 8 9 13 15 17 18 29 31 36 43
c75 43 0 0.146894f
c76 36 0 0.231042f
c77 31 0 0.105511f
c78 29 0 0.168191f
c79 18 0 0.164083f
c80 17 0 0.0519698f
c81 15 0 0.0399585f
c82 13 0 0.162764f
c83 9 0 0.179283f
c84 8 0 0.0341229f
c85 5 0 0.120513f
c86 2 0 0.090873f
r87 36 40 75
r88 31 43 0.0566888
r89 18 40 15.2843
r90 17 19 0.0940755
r91 17 18 7
r92 13 36 15.2843
r93 12 15 0.0519666
r94 12 13 7
r95 9 29 0.070746
r96 9 43 0.432083
r97 8 19 0.0152264
r98 7 20 0.0216719
r99 7 8 0.085
r100 5 29 0.0870902
r101 5 15 0.481667
r102 2 20 0.0425
.ends

.subckt PM_LSGCPX1_nose2 2 5 7 9 11 13 14 17 19 20 21 26 28 30 32 35 36 37 39 45
c74 39 0 0.100547f
c75 37 0 0.204722f
c76 36 0 0.163989f
c77 35 0 0.067867f
c78 32 0 0.0395572f
c79 30 0 0.0267086f
c80 28 0 0.0267057f
c81 26 0 0.162265f
c82 21 0 0.00832352f
c83 20 0 0.00818974f
c84 19 0 0.00553175f
c85 17 0 0.0907866f
c86 14 0 0.0601585f
c87 13 0 0.388047f
c88 12 0 0.0978722f
c89 11 0 0.357303f
c90 7 0 0.241882f
c91 5 0 0.250036f
r92 37 43 0.410833
r93 36 53 15.2843
r94 35 37 0.0519666
r95 35 36 7
r96 31 50 16.2146
r97 30 32 0.0519666
r98 30 31 7
r99 26 47 15.2843
r100 25 28 0.0519666
r101 25 26 7
r102 20 39 0.0216719
r103 20 21 0.141667
r104 18 21 0.0474919
r105 18 19 0.0991667
r106 17 45 0.126866
r107 17 32 0.0991667
r108 14 19 0.0474919
r109 14 28 0.255
r110 13 50 20.9465
r111 12 13 36.1242
r112 11 12 14.7074
r113 11 53 97.9167
r114 7 50 5.66349
r115 7 9 45.8333
r116 5 47 50
r117 2 43 0.0566888
r118 2 39 0.0188889
.ends

.subckt PM_LSGCPX1_SE 2 3 4 5 9 11 13 15 23
c41 23 0 0.300453f
c42 15 0 0.0199382f
c43 11 0 0.168932f
c44 9 0 0.4226f
c45 5 0 0.15386f
c46 4 0 0.0977785f
c47 3 0 0.349636f
c48 2 0 0.606091f
r49 18 23 15.244
r50 18 20 14.3095
r51 15 18 7
r52 11 13 25
r53 7 9 108.333
r54 5 7 13.9682
r55 5 23 27.0833
r56 3 11 13.9682
r57 3 4 87.5
r58 2 20 8.22096
r59 1 4 13.9682
r60 1 2 172.917
.ends

.subckt PM_LSGCPX1_E 1 3 5 6 8 12 15
c50 15 0 0.0535223f
c51 12 0 0.192634f
c52 8 0 0.463258f
c53 6 0 0.229222f
c54 5 0 0.0948604f
c55 1 0 0.152985f
r56 17 18 7
r57 15 17 0.124718
r58 10 12 37.5
r59 6 18 15.219
r60 6 8 131.25
r61 5 18 22.719
r62 4 12 1.46822
r63 4 5 31.25
r64 1 10 1.46822
r65 1 3 25
.ends

.subckt PM_LSGCPX1_CLK 1 3 4 5 8 11 13 16 18 20 21 23 25 29 32 36 38 40 42 48
c102 48 0 0.199961f
c103 42 0 0.169367f
c104 40 0 0.0302965f
c105 38 0 0.0318744f
c106 36 0 0.140637f
c107 32 0 0.168761f
c108 29 0 0.0364275f
c109 25 0 0.0569638f
c110 24 0 0.0568708f
c111 21 0 0.538731f
c112 18 0 0.219806f
c113 16 0 0.33508f
c114 13 0 0.25527f
c115 11 0 0.319776f
c116 8 0 0.402341f
c117 5 0 0.0682485f
c118 4 0 0.0861773f
c119 1 0 0.223316f
r120 40 42 0.0519666
r121 40 41 7
r122 38 42 0.623333
r123 36 46 15.2843
r124 36 45 15.2843
r125 35 38 0.0519666
r126 35 36 7
r127 32 48 15.2843
r128 29 32 7
r129 21 41 43.0621
r130 21 23 41.6667
r131 18 20 41.6667
r132 17 25 10.5861
r133 16 18 13.9682
r134 16 17 79.1667
r135 15 24 2.75115
r136 15 48 60.4167
r137 13 25 2.75115
r138 12 24 10.5861
r139 12 13 83.3333
r140 11 24 10.5861
r141 11 46 100
r142 8 45 104.167
r143 4 25 10.5861
r144 4 5 33.3333
r145 1 5 13.9682
r146 1 3 41.6667
.ends

